US07253292B2
Step a) 2-methyl-4-phenylthiophene
A solution of PhMgBr (prepared from 1.65 g of Mg (0.0678 mol) and 10.64 g of PhBr (0.0678 mol) in 40 mL of diethyl ether) was added to a mixture of 10 g (0.0565 mol) of 4-bromo-2-methylthiophene and 0.62 g (0.0012 mol) of NiCl2dppp in 50 mL of ether under stirring at reflux. The reaction mixture was refluxed for additional 3 h and then stirred overnight. The resulting mixture was treated with 10% aqueous NH4Cl, the organic layer was separated, washed with 10% aqueous NH4Cl and then dried with anhydrous Na2SO4. Solvent was evaporated, the residue was recrystallized from methanol. Yield 6.8 g (70%) of colorless crystals.

reactant | PhMgBr | 0.0678 mol, 40 mL, 1.65 g | C1(=CC=CC=C1)[Mg]Br
reactant | 4-bromo-2-methylthiophene | 0.0565 mol, 10 g | BrC=1C=C(SC1)C | C5H5BrS
reactant | NH4Cl | [NH4+].[Cl-]
solvent | ether | 50 mL | CCOCC | C4H10O
product | 2-methyl-4-phenylthiophene | CC=1SC=C(C1)C1=CC=CC=C1 | C11H10S
